// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.

// Library name: Dataset
// Cell name: 1064
// View name: schematic
M10 (net25 VOUT1 VDD VDD) pmos4
M8 (net25 net20 VDD VDD) pmos4
M4 (net18 VIN1 net12 VDD) pmos4
M3 (net10 VIN2 net12 VDD) pmos4
M2 (net20 IB1 VDD VDD) pmos4
M1 (net12 IB1 VDD VDD) pmos4
M0 (IB1 IB1 VDD VDD) pmos4
M11 (net25 VOUT1 VSS VSS) nmos4
M9 (net25 net20 VSS VSS) nmos4
M7 (net20 net18 VSS VSS) nmos4
M6 (net18 net10 VSS VSS) nmos4
M5 (net10 net10 VSS VSS) nmos4
I0 (net25 VOUT1 VDD VSS) INVERTER